*LM317 TI voltage regulator - pin order: In, Adj, Out
 
*TI adjustable voltage regulator pkg:TO-3
 
.SUBCKT LM317 1 2 3 **Changes my be required on this line**
 
J1 1 3 4 JN
 
Q2 5 5 6 QPL .1
 
Q3 5 8 9 QNL .2
 
Q4 8 5 7 QPL .1
 
Q5 81 8 3 QNL .2
 
Q6 3 81 10 QPL .2
 
Q7 12 81 13 QNL .2
 
Q8 10 5 11 QPL .2
 
Q9 14 12 10 QPL .2
 
Q10 16 5 17 QPL .2
 
Q11 16 14 15 QNL .2
 
Q12 3 20 16 QPL .2
 
Q13 1 19 20 QNL .2
 
Q14 19 5 18 QPL .2
 
Q15 3 21 19 QPL .2
 
Q16 21 22 16 QPL .2
 
Q17 21 3 24 QNL .2
 
Q18 22 22 16 QPL .2
 
Q19 22 3 241 QNL 2
 
Q20 3 25 16 QPL .2
 
Q21 25 26 3 QNL .2
 
Q22A 35 35 1 QPL 2
 
Q22B 16 35 1 QPL 2
 
Q23 35 16 30 QNL 2
 
Q24A 27 40 29 QNL .2
 
Q24B 27 40 28 QNL .2
 
Q25 1 31 41 QNL 5
 
Q26 1 41 32 QNL 50
 
D1 3 4 DZ
 
D2 33 1 DZ
 
D3 29 34 DZ
 
R1 1 6 310
 
R2 1 7 310
 
R3 1 11 190
 
R4 1 17 82
 
R5 1 18 5.6K
 
R6 4 8 100K
 
R7 8 81 130
 
R8 10 12 12.4K
 
R9 9 3 180
 
R10 13 3 4.1K
 
R11 14 3 5.8K
 
R12 15 3 72
 
R13 20 3 5.1K
 
R14 2 24 12K
 
R15 24 241 2.4K
 
R16 16 25 6.7K
 
R17 16 40 12K
 
R18 30 41 130
 
R19 16 31 370
 
R20 26 27 13K
 
R21 27 40 400
 
R22 3 41 160
 
R23 33 34 18K
 
R24 28 29 160
 
R25 28 32 3
 
R26 32 3 .1
 
C1 21 3 30PF
 
C2 21 2 30PF
 
C3 25 26 5PF
 
CBS1 5 3 2PF
 
CBS2 35 3 1PF
 
CBS3 22 3 1PF
 
.MODEL JN NJF(BETA=1E-4 VTO=-7)
 
.MODEL DZ D(BV=6.3)
 
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF
 
+ CJC=1PF VAF=100)
 
.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)
 
.ENDS LM317 **changes may be required on this line**